Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / cefepime / clindamycin
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
Mr. ___ is a ___ male with history of HTN, GERD,
gallstone pancreatitis who presents with abdominal pain. He came
into the ED on ___, after being discharged from ___ on ___ for
presumed cholangitis and passed CBD stone. He was placed on
levofloxacin and flagyl, had GNR bacteremia too (enterobacter
cloacae, sensitive to quinolone). Of note his WBC was as high as
77.7 there, downtrended to 28.9 by discharge day. 
He was accepted for transfer to ___ on ___ for ERCP, but
the patient refused, and was d/c-ed home on ___ for ___
outpatient ERCP plan. 

However the patient re-developed RUQ abdominal pain and low 
grade
temps at home, so he came to ___ ED on ___. In the ED he
received flagyl, levaquin, then underwent ERCP today on ___. A
small stone was seen and a sphincterotomy was performed.

On interview, the patient denies any abdominal pain, nausea,
vomiting, fever. NO chest pain or SOB. He refuses IVF as he
doesn't want to get up to bathroom overnight.
 
Past Medical History:
HTN, GERD, gallstone pancreatitis 
 
Social History:
___
Family History:
FATHER, ___.
  Diabetes mellitus in father
  ___
  ___
MOTHER, ___.
  Hypertension
BROTHER, ___.
  Diabetes mellitus in brother
 
Physical ___ Physical Exam:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.

Discharge Physical Exam:
========================
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
 
Pertinent Results:
Admission Labs:
===============
___ 02:15PM BLOOD WBC-25.7* RBC-5.56 Hgb-13.4* Hct-41.3 
MCV-74* MCH-24.1* MCHC-32.4 RDW-16.4* RDWSD-41.0 Plt ___
___ 02:15PM BLOOD Neuts-83* Bands-0 Lymphs-7* Monos-3* 
Eos-1 Baso-1 Atyps-2* Metas-1* Myelos-2* AbsNeut-21.33* 
AbsLymp-2.31 AbsMono-0.77 AbsEos-0.26 AbsBaso-0.26*
___ 02:15PM BLOOD Glucose-121* UreaN-9 Creat-1.0 Na-130* 
K-4.0 Cl-91* HCO3-26 AnGap-13
___ 02:15PM BLOOD ALT-62* AST-25 AlkPhos-269* TotBili-1.2 
DirBili-0.4* IndBili-0.8
___ 02:15PM BLOOD Albumin-4.1 Calcium-8.9 Phos-3.2 Mg-1.8
___ 02:29PM BLOOD Lactate-1.6

Imaging:
========
RUQ US:
1. Limited exam due to difficulty in based on positioning.  
Within the 
limitation, liver echotexture appears within normal limits. 
2. Cholelithiasis. 

ERCP:
The scout film was normal. 
•During difficult biliary cannulation, the pancreatic duct was 
partially filled with contrast and visualized proximally. The 
course and caliber of the duct was normal with no evidence of 
filling defects, masses, chronic pancreatitis or other 
abnormalities. 
•The bile duct was deeply cannulated with the sphincterotome. 
•Contrast was injected and there was brisk flow through the 
ducts. 
•Contrast extended to the entire biliary tree. The CBD was 6 mm 
in diameter. 
•One possible filling defect consistent with a stone was 
identified in the CBD. 
•Opacification of the gallbladder was incomplete. 
•The left and right hepatic ducts and all intrahepatic branches 
were normal. 
•A biliary sphincterotomy was made with a sphincterotome. 
•There was no post-sphincterotomy bleeding. 
•The biliary tree was swept with a 9-12mm balloon starting at 
the bifurcation. One small pigmented stone was successfully 
removed. 
•The CBD and CHD were swept repeatedly until no further stones 
were seen. 
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically.
•Otherwise normal ercp to third part of the duodenum
Recommendations:
•Admit to hospital for monitoring
•NPO overnight with aggressive IV hydration with LR at 200 cc/hr
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
•No Plavix, NSAIDS, Coumadin for 5 days.
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call Advanced 
Endoscopy Fellow on call ___
 
Discharge Labs:
===============
___ 07:20AM BLOOD WBC-23.7* RBC-5.12 Hgb-12.6* Hct-38.6* 
MCV-75* MCH-24.6* MCHC-32.6 RDW-16.6* RDWSD-42.8 Plt ___
___ 07:20AM BLOOD Neuts-83* Bands-0 Lymphs-3* Monos-13 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-19.67* 
AbsLymp-0.71* AbsMono-3.08* AbsEos-0.24 AbsBaso-0.00*
___ 07:20AM BLOOD Glucose-95 UreaN-10 Creat-1.1 Na-137 
K-4.3 Cl-95* HCO3-25 AnGap-17
___ 07:20AM BLOOD ALT-44* AST-35 AlkPhos-215* TotBili-1.0
___ 07:20AM BLOOD Albumin-3.5
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of HTN, GERD,
gallstone pancreatitis who presents with abdominal pain. He came
into the ED on ___, after being discharged from ___ on ___ for
presumed cholangitis and passed CBD stone. Underwent ERCP ___
with sphincterotomy and stone extraction

# Cholangitis, choledocholithiasis
Underwent ERCP on ___ with sphincterotomy performed. Small 
filling defect consistent with stone also identified. Biliary 
tree was swept. Diet was advanced and he was tolerating a 
regular diet at time of procedure. LFTs were unremarkable 
(mildly elevated ALT of 44 and AP of 215 at time of discharge). 
He was found to have enterobacter bacteremia at ___ and was 
continued on home flagyl. Home levofloxacin was converted to IV 
ciprofloxacin while hospitalized. He was continued of 
levofloxacin and flagyl at discharge

# Leukocytosis: leukocytosis of 23.7 at time of discharge, down 
from 77 at ___. Likely leukomoid reaction, but should 
have repeat CBC with diff after infection normalizes to ensure 
that this resolves

# HTN: continued home atenolol, amlodipine, lisinopril

# GERD: continued home omeprazole

Transitional Issues:
- discharged from ___ on levofloxacin and flagyl for 
Enterobacter bacteremia
- needs repeat LFTs and CBC checked by PCP as an outpatient
- ASA held post-sphincterotomy, should not resume until ___

> 30 minutes spent on discharge coordination and planning
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 12.5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Levofloxacin 750 mg PO Q24H 
6. MetroNIDAZOLE 500 mg PO QID 
7. amLODIPine 2.5 mg PO HS 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO HS  
2.  Atenolol 12.5 mg PO BID  
3.  Levofloxacin 750 mg PO Q24H  
4.  Lisinopril 20 mg PO DAILY  
5.  MetroNIDAZOLE 500 mg PO QID  
6.  Omeprazole 20 mg PO DAILY  
7. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Choledocholithiasis
Enterobacter bacteremia
Leukocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in because you were having fever and abdominal pain. 
You had an ERCP procedure which found a stone in your bile duct. 
The stone was removed and an opening was made in the bile duct 
to help future stones pass.

Please continue taking the antibiotics you were taking before 
coming into the hospital. These antibiotics are treating a 
bloodstream infection and it is very important to finish a full 
course.

Please also hold aspirin for the next 4 days. There is a risk of 
bleeding after your ERCP procedure. You should not restart 
aspirin until ___.
 
Followup Instructions:
___